US07157447B2
4-Fluoro-2-(1H-1,2,3-triazol-1-yl)benzonitrile.
A mixture of 1-(2-bromo-5-fluorophenyl)-1H-1,2,3-triazole (0.603 g, 2.49 mmol), CuCN (0.245 g, 2.74 mmol), and 15 mL of NMP was subjected to microwave irradiation at 150° C. for 0.5 h. The brown mixture was filtered over celite and washed with DMF. This solution was treated with 10% aqueous NH4OH (28–30% solution) and extracted with EtOAc. The combined organic phase were successively washed with 10% aqueous NH4OH (28–30% solution), saturated aqueous NH4Cl, water, brine and dried over Na2SO4. The resulting mixture was concentrated in vacuo and the residue was purified with a Biotage system on silica gel with hexanes:ethyl acetate (7:3 to 6:4) gradient as the eluent to afford the title compound as a light yellow solid (0.285 g, 61% yield): 1H NMR (400 MHz, CDCl3) δ ppm: 8.40 (1H, d, J=1.0 Hz), 7.96 (1H, s), 7.91 (1H, dd, J=8.6, 5.6 Hz), 7.77 (1H, dd, J=8.7, 2.4 Hz), 7.31–7.39 (1H, m).

reactant | 1-(2-bromo-5-fluorophenyl)-1H-1,2,3-triazole | 2.49 mmol, 0.603 g | BrC1=C(C=C(C=C1)F)N1N=NC=C1 | C8H5BrFN3
reactant | CuCN | 2.74 mmol, 0.245 g | C(#N)[Cu]
solvent | NMP | 15 mL | CN1CCCC1=O | C5H9NO
product | 4-Fluoro-2-(1H-1,2,3-triazol-1-yl)benzonitrile | 0.285 g, 61% yield | FC1=CC(=C(C#N)C=C1)N1N=NC=C1 | C9H5FN4
